US05234931
a. Diethyl-1-(2,4-difluorophenyl)-1-methoxymethane phosphonate
Boron trifluoride etherate (56 ml) was added dropwise to a solution of 2,4-difluorobenzaldehyde dimethyl acetal (79 g) and triethylphosphite (73.5 g) in DCM (11) at -25° C. The mixture was stirred at ambient temperature for 16 hours. The organic solution was washed with H2O and brine and dried over MgSO4. The solvent was removed to leave an oil (~160 g). Purification by flash chromatography on silica gel column (elution with 40% heptane: 60% DCM, with DCM, followed by ethyl acetate: DCM) provided 107 g of an oil.

reactant | Boron trifluoride etherate | 56 ml | B(F)(F)F.CCOCC
reactant | 2,4-difluorobenzaldehyde dimethyl acetal | 79 g | COC(C1=C(C=C(C=C1)F)F)OC | C9H10F2O2
reactant | triethylphosphite | 73.5 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Diethyl-1-(2,4-difluorophenyl)-1-methoxymethane phosphonate | ~160 g | P(O)(O)=O.C(C)C(OC)(C1=C(C=C(C=C1)F)F)CC | InChI=1S/C12H16F2O.H3O3P/c1-4-12(5-2,15-3)10-7-6-9(13)8-11(10)14;1-4(2)3/h6-8H,4-5H2,1-3H3;4H,(H2,1,2,3)
